US06566546B2
Preparation of 2-methyl-4-aminobiphenyl hydrochloride
300 g of water and 296 g of HCl (37%) are added to the 2-methyl-4-acetaminobiphenyl prepared as described in Example 1. Any chlorobenzene still present is distilled off azeotropically, and the mixture is subsequently refluxed until HPLC monitoring indicates complete conversion (about 4 hours). The suspension obtained can be reacted further without further purification and without removal of the acetic acid formed as coproduct in the cleavage. The yield is (calculated from HPLC percentages by area) 99%.

reactant | water | 300 g | O | H2O
reactant | HCl | 296 g | Cl | ClH
reactant | 2-methyl-4-acetaminobiphenyl | CC1=C(C=CC(=C1)NC(=O)C)C1=CC=CC=C1 | C15H15NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methyl-4-aminobiphenyl hydrochloride | Cl.CC1=C(C=CC(=C1)N)C1=CC=CC=C1 | InChI=1S/C13H13N.ClH/c1-10-9-12(14)7-8-13(10)11-5-3-2-4-6-11;/h2-9H,14H2,1H3;1H
